US08536214B2
2,2,2-Trifluoro-N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)acetamide
To a solution of (1-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol (0.199 mmol, 62.1 mg) and triethylamine (0.399 mmol, 0.056 mL, 40.4 mg) in DCM (1.2 mL) was added a solution of ethyl 2,2,2-trifluoroacetate (0.199 mmol, 0.024 mL, 28.3 mg) and the whole stirred at room temperature for 60 h. The reaction mixture was concentrated under reduced pressure and the residue purified by RP-HPLC to give a clear film (30.0 mg, 0.074 mmol, 36.9%). MS (ESI): m/z [M+H]+ 408.0.

reactant | (1-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | 0.199 mmol, 62.1 mg | NC1CCC2=CC(=CC=C12)CN1N=C(C(=C1)CO)C(F)(F)F | C15H16F3N3O
reactant | triethylamine | 0.399 mmol, 0.056 mL, 40.4 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl 2,2,2-trifluoroacetate | 0.199 mmol, 0.024 mL, 28.3 mg | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | DCM | 1.2 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)acetamide | FC(C(=O)NC1CCC2=CC(=CC=C12)CN1N=C(C(=C1)CO)C(F)(F)F)(F)F | C17H15F6N3O2
